US05006520
By conducting reactions and treatments in the same manner as in Examples 1-6, using 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine and 4-chloroacetylmorpholine, there was obtained 4-{3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetyl}morpholine, m.p. 141°-143° C.

reactant | 3-(4-fluorophenyl)-1-(3-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC(=CC=C2)O | C18H12FN3O
reactant | 4-chloroacetylmorpholine | ClCC(=O)N1CCOCC1 | C6H10ClNO2
product | 4-{3-[3-(4-fluorophenyl)-1H-pyrazolo[3,4-b]pyridin-1-yl]phenoxyacetyl}morpholine | FC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C=2C=C(OCC(=O)N1CCOCC1)C=CC2 | C24H21FN4O3
